US08604033B2
According to Scheme 1 Step 3: Oxalyl chloride (227 mmol, 19.5 mL) and three drops of DMF were added to a solution of 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylic acid (114 mmol, 26.4 g) in DCM (227 mL). The reaction mixture was stirred for 30 minutes at room temperature. After evaporation of the solvent, dry DCM (100 mL) was added to the crude residue. The acyl chloride solution was then added at 0° C. to a solution of ammonia in water (454 mmol, 23.4 g) and the reaction mixture was stirred overnight. After filtration and evaporation to dryness, 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamide (109 mmol, 25.1 g, 96%) was obtained as a colorless solid. The crude product was used without further purification.

reactant | Oxalyl chloride | 227 mmol, 19.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylic acid | 114 mmol, 26.4 g | COC1=CC=C(CN2N=CC(=C2)C(=O)O)C=C1 | C12H12N2O3
reactant | ammonia | N | H3N
reactant | water | 454 mmol, 23.4 g | O | H2O
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
solvent | DCM | 227 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamide | 109 mmol, 25.1 g, 96% | COC1=CC=C(CN2N=CC(=C2)C(=O)N)C=C1 | C12H13N3O2
